US07727988B2
2,4-Dimethoxy-5-(6-methyl-pyridin-3-yl)-pyrimidine (Prep56)
2,4-Dimethoxy-pyrimidine-5-boronic acid (commercially available from Aldrich, 830 mg, 4.5 mmol) was dissolved in degassed n-PrOH (10 mL) and then 3-bromo-6-methylpyridine (600 mg, 3.5 mmol), Na2CO3 (956 mg, 9 mmol), PPh3 (90 mg, 0.35 mmol) and Pd(OAc)2 (78 mg, 0.35 mmol) were added. The suspension was stirred at reflux for 1.5 hours. The solvent was evaporated under vacuum and the crude was partitioned between water and ethyl acetate. The organic phase was dried (Na2SO4) and evaporated. The crude was purified by SCX cartridge washing with MeOH and then collecting the product with MeOH—NH4OH (95-5) to give 500 mg of the title compound (62% yield).

reactant | 2,4-Dimethoxy-pyrimidine-5-boronic acid | COC1=NC=C(C(=N1)OC)B(O)O | C6H9BN2O4
reactant | 3-bromo-6-methylpyridine | 3.5 mmol, 600 mg | BrC=1C=NC(=CC1)C | C6H6BrN
reactant | Na2CO3 | 9 mmol, 956 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | PPh3 | 0.35 mmol, 90 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | n-PrOH | 10 mL | C(CC)O | C3H8O
catalyst | Pd(OAc)2 | 0.35 mmol, 78 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2,4-Dimethoxy-5-(6-methyl-pyridin-3-yl)-pyrimidine | 500 mg, 62% yield | COC1=NC=C(C(=N1)OC)C=1C=NC(=CC1)C | C12H13N3O2
